US08207167B2
2′,4′-Difluorobiphenylsulfonyl chloride
2′,4′-Difluorobiphenyl-4-sulfonic acid (12.1 g, 47 mmol) was suspended in thionyl chloride (100 mL). The mixture was heated at reflux for 30 minutes, when a catalytic amount of dry DMF was added and the reaction was heated at reflux for a further 4 hours. The reaction was then cooled and the thionyl chloride evaporated and the residue was then azeotroped with toluene (3×10 mL). The resulting yellow/orange gum was taken up into EtOAc 250 mL) and washed with water (50 mL) and brine (50 mL), and dried over MgSO4. Filtration and evaporation gave the title compound as a brown oil which crystallized on standing (11 g).

reactant | 2′,4′-Difluorobiphenyl-4-sulfonic acid | 47 mmol, 12.1 g | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)O | C12H8F2O3S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
product | 2′,4′-Difluorobiphenylsulfonyl chloride | FC1=C(C=CC(=C1)F)C=1C(=CC=CC1)S(=O)(=O)Cl | C12H7ClF2O2S
